US07968720B2
3-(4-Chloro-3-hydroxymethyl-phenyl)-propionic Acid
A mixture of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde (1.84 g, 6.46 mmol), Meldrum acid (931 mg, 6.46 mmol), and formic acid-triethylamine 5:2 complex (1.62 mL, 23.4 mmol) in DMF (6.00 mL) was heated to 100° C. for 3.5 h. Meldrum acid (466 mg, 3.23 mmol) was added again, and the mixture was stirred for 1 h at 100° C. The mixture was allowed to cool to rt, and was diluted with a mixture of water and ice. The resulting mixture was extracted several times with EtOAc. The combined org. extracts were washed with water, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. The residue was dissolved in Et2O, and the resulting mixture was extracted several times with aq. 1M NaOH. The combined aq. extracts were acidified to pH 2 with aq. 1M HCl, and this aq. mixture was extracted back with Et2O several times. The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Drying the residue under high vacuum yielded the crude title compound (1.20 g, 87%) that was used further without purification. LC-MS: tR=0.71 min.

reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde | 6.46 mmol, 1.84 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=O)C=CC1Cl)(C)C | C14H21ClO2Si
reactant | Meldrum acid | 6.46 mmol, 931 mg | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | formic acid-triethylamine | C(C)N(CC)CC.C(=O)O
reactant | Meldrum acid | 3.23 mmol, 466 mg | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | DMF | 6.00 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(4-Chloro-3-hydroxymethyl-phenyl)-propionic Acid | 1.20 g, 87% | ClC1=C(C=C(C=C1)CCC(=O)O)CO | C10H11ClO3
